US06511978B1
34-1) Preparation of 1-[(E)-2-nitroethenyl]naphthalene
7.81 g (50 mmol) of 1-naphthaldehyde and 1.54 g (20 mmol) of ammonium acetate were added to 70 ml of nitromethane and heated under reflux for 3 hours (see: J. Org. Chem., 1984, 49, 4761). 100 ml of ethylacetate was added and the resulting mixture was washed with 50 ml of water and 50 ml of brine. The organic layer was collected and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was subjected to column chromatography (eluent: hexane/ethylacete=90/10, v/v) to give 6.27 g( 0.031 mmol, Yield 62%) of the title compound.

reactant | 1-naphthaldehyde | 50 mmol, 7.81 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | ammonium acetate | 20 mmol, 1.54 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 70 ml | [N+](=O)([O-])C | CH3NO2
reactant | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 1-[(E)-2-nitroethenyl]naphthalene | 0.031 mmol, Yield 62% | [N+](=O)([O-])/C=C/C1=CC=CC2=CC=CC=C12 | C12H9NO2
